US08222416B2
To a solution of 1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-3,3-dimethyl-butan-1-ol (3.1 g, 8.7 mmol) in dichloromethane (150 mL) was added Dess-Martin periodinane (9.3 g, 22 mmol) at 25° C. The reaction mixture was stirred at 25° C. for 2 h and then quenched with a saturated aqueous sodium bicarbonate solution (100 mL). The mixture was extracted with dichloromethane (50 mL), washed with a saturated aqueous sodium bicarbonate solution (3×100 mL), brine, dried over anhydrous sodium sulfate and then concentrated in vacuo to afford 1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-3,3-dimethyl-butan-1-one (2.5 g, 83%) as a light yellow solid which was used in the next step without further purification: LC/MS m/e calcd for C19H20N2O3S [M+H]+ 357.45, observed 357.3.

reactant | 1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-3,3-dimethyl-butan-1-ol | 8.7 mmol, 3.1 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=CC2)C(CC(C)(C)C)O | C19H22N2O3S
reactant | Dess-Martin periodinane | 22 mmol, 9.3 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-3,3-dimethyl-butan-1-one | 2.5 g, 83% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=CC2)C(CC(C)(C)C)=O | C19H20N2O3S
